US04533613
2,3-Bis(4-nitrostyryl)quinoxaline
In 200 ml of acetic anhydride, 16 g of 2,3-dimethylquinoxaline and 30 g of p-nitrobenzaldehyde were heated under reflux for 30 minutes.

reactant | 2,3-dimethylquinoxaline | 16 g | CC1=NC2=CC=CC=C2N=C1C | C10H10N2
reactant | p-nitrobenzaldehyde | 30 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,3-Bis(4-nitrostyryl)quinoxaline | [N+](=O)([O-])C1=CC=C(C=CC2=NC3=CC=CC=C3N=C2C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C24H16N4O4
